US06043366
4-(3-methyl-phenyl-amino)-1-(phenylmethyl)-4-piperidine-carboxamide (12.94 g) was dissolved in 80 ml triethyl orthoformate and stirred at 150° C. for 66 hours. After cooling to 0° C., the reaction mixture was filtered and the light brown powder washed with ether to yield 8-benzyl-1-(3-methyl-phenyl)-1,3,8-triazaspiro[4,5]dec-2-en-4-one (2.1g). M.p. 301.5-302.6° C.

reactant | 4-(3-methyl-phenyl-amino)-1-(phenylmethyl)-4-piperidine-carboxamide | 12.94 g | CC=1C=C(C=CC1)NC1(CCN(CC1)CC1=CC=CC=C1)C(=O)N | C20H25N3O
reactant | triethyl orthoformate | 80 ml | C(OCC)(OCC)OCC | C7H16O3
product | 8-benzyl-1-(3-methyl-phenyl)-1,3,8-triazaspiro[4,5]dec-2-en-4-one | 2.1g | C(C1=CC=CC=C1)N1CCC2(C(N=CN2C2=CC(=CC=C2)C)=O)CC1 | C21H23N3O
